US04221814
A mixture of 12 g of 7-(propionamido)-2-(4-carboxyphenyl)-4H-3,1-benzoxazine-4-one, 120 ml of absolute ethanol and 9 ml of triethylamine was heated under reflux for a period of 8 hours. After being allowed to cool, the mixture was added with 9 ml of acetic acid and 500 ml of water, the precipitating crystal was filtered, and recrystallized from a solvent mixture of ethanol and water to yield 10 g of ethyl 2-(4-carboxybenzamido)-4-propionamidobenzoate having a melting point in the range of from 246° to 248° C.

reactant | 7-(propionamido)-2-(4-carboxyphenyl)-4H-3,1-benzoxazine-4-one | 12 g | C(CC)(=O)NC1=CC2=C(C(OC(=N2)C2=CC=C(C=C2)C(=O)O)=O)C=C1 | C18H14N2O5
reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | ethyl 2-(4-carboxybenzamido)-4-propionamidobenzoate | 10 g | C(=O)(O)C1=CC=C(C(=O)NC2=C(C(=O)OCC)C=CC(=C2)NC(CC)=O)C=C1 | C20H20N2O6
